* C:\Users\dal56\Documents\Oresat\oresat-proto-card\I2C-protection-sims\I2Cprotection.asc
XU1 N002 0 Vref N001 V+ LTC1441
V1 Vref 0 1.2
M1 Signal N002 0 0 PMOS
R1 N002 0 10k
C1 N001 0 1µ
V2 V+ 0 3.3
V3 Signal 0 PULSE(0 3.3 0 0 0 5u 10u)
R2 0 N001 10k
R3 V+ N001 1Meg
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\dal56\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran .001
.lib LTC.lib
.backanno
.end
